US06660858B2
5-METHYLISOXAZOLE-4-CARBOXYLIC ACID
Sulfonylation (X═SO2) For 45 μmol of aminobenzoxazole resin in each well of a 96-well microtiter plate, 1 mL RSO2Cl/THF-ACN /NMM/NMI (0.3M, 0.3 mmol RSO2Cl; 20% THF-ACN (by volume); 0.6M, 0.6 mmol NMM; 0.1M, 0.1 mmol NMI) was added to each well. The sulfonyl chlorides (RSO2Cl) used were as follows:

reactant | aminobenzoxazole | 45 μmol | NC=1OC2=C(N1)C=CC=C2 | C7H6N2O
reactant | NMM | 0.6 mmol, 0.6M | CN1CCOCC1 | C5H11NO
reactant | THF ACN | C1CCOC1.C(C)#N
product | 5-METHYLISOXAZOLE-4-CARBOXYLIC ACID | CC1=C(C=NO1)C(=O)O | C5H5NO3
